US08026257B2
5-(Trifluoromethyl)-1H-benzo[d]imidazole-7-carbonitrile.
A red suspension of 7-Bromo-5-(trifluoromethyl)-1H-benzo[d]imidazole (270 mg, 1.02 mmol), zinc cyanide (1.12 mmol), and PdCl2(dppf) (0.06 mmol) in Water (3 ml) and dimethylformamide (10 ml) was heated with stirring under argon for 2 h. At the end, LC-MS analysis revealed completion of the reaction. The reaction mixture was cooled to ambient temperature and was subjected to preparative HPLC (8 injections using HPLC method 14). Fractions containing the required product were combined and evaporated in vacuo to give 97 mg (45% yield). 1H NMR (CD3OD, 500 MHz) δ 7.88 (s, 1H), 8.21 (s, 1H), 8.54 (s, 1H); IR (KBr) 2229 (CN stretching); LC/MS (HPLC method 9): tR=1.8 min, 212(MH)+.

reactant | 7-Bromo-5-(trifluoromethyl)-1H-benzo[d]imidazole | 1.02 mmol, 270 mg | BrC1=CC(=CC2=C1NC=N2)C(F)(F)F | C8H4BrF3N2
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | 3 ml | O | H2O
catalyst | zinc cyanide | 1.12 mmol | [C-]#N.[Zn+2].[C-]#N
catalyst | PdCl2(dppf) | 0.06 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(Trifluoromethyl)-1H-benzo[d]imidazole-7-carbonitrile | 45% yield | FC(C1=CC2=C(NC=N2)C(=C1)C#N)(F)F | C9H4F3N3
